US05011849
2.0 g (5.5 mmol) of t-butyl [2-(2-amino-5-phenyl-4thiazolecarboxamido)ethyl]carbamate were dissolved in 15 ml of methylene chloride and heated to reflux for 3 hours with 2.1 ml (27.6 mmol) of trifluoroacetic acid. Thereafter, the reaction mixture was evaporated under reduced pressure and the residue was dissolved in methanol, treated with~2 M methanolic hydrochloric acid and evaporated. Recrystallization of the residue from methanol/ether with the addition of a small amount of hexane yielded 1.65 g (90%) of 2-amino-N-(2-aminoethyl)-5-phenyl-4-thiazolecarboxamide dihydrochloride as white crystals, melting point 203°-205°.

reactant | t-butyl [2-(2-amino-5-phenyl-4thiazolecarboxamido)ethyl]carbamate | 5.5 mmol, 2.0 g | NC=1SC(=C(N1)C(=O)NCCNC(OC(C)(C)C)=O)C1=CC=CC=C1 | C17H22N4O3S
reactant | trifluoroacetic acid | 27.6 mmol, 2.1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 2-amino-N-(2-aminoethyl)-5-phenyl-4-thiazolecarboxamide dihydrochloride | 1.65 g, 90% | Cl.Cl.NC=1SC(=C(N1)C(=O)NCCN)C1=CC=CC=C1 | InChI=1S/C12H14N4OS.2ClH/c13-6-7-15-11(17)9-10(18-12(14)16-9)8-4-2-1-3-5-8;;/h1-5H,6-7,13H2,(H2,14,16)(H,15,17);2*1H
